US07199147B2
To a solution of 6-chloro-2-fluoro-3-methyl-4-nitrophenol (4.11 g, 19.9 mmol) in ethanol (200 ml) were added 10%-palladium/carbon (containing 50% water, 410 mg) and ammonium formate (15.1 g, 240 mmol), and the resulting mixture was stirred for 3 hours with heating under reflux while maintaining the temperature. The mixture was filtered by the use of Celite and the filtrate was concentrated under reduced pressure to obtain a crude product. The crude product was partitioned by the use of water and ethyl acetate (the aqueous layer was adjusted to pH 6 to 7 with a 5% aqueous sodium hydrogencarbonate solution and re-extracted), and the organic phase was washed with a 5% aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure to obtain 4-amino-2-fluoro-3-methylphenol (2.89 g, 100%).

reactant | 6-chloro-2-fluoro-3-methyl-4-nitrophenol | 19.9 mmol, 4.11 g | ClC1=CC(=C(C(=C1O)F)C)[N+](=O)[O-] | C7H5ClFNO3
reactant | ammonium formate | 240 mmol, 15.1 g | C(=O)[O-].[NH4+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 410 mg | [Pd] | Pd
product | 4-amino-2-fluoro-3-methylphenol | 2.89 g, 100% | NC1=C(C(=C(C=C1)O)F)C | C7H8FNO
